US08487108B2
(S)-tert-butyl 1-(N-methyl-N-(benzyloxycarbonyl)amino)-3-(4-oxocyclohexyl)propan-2-ylcarbamate (300 mg, 0.72 mmol) was dissolved in 5 mL of 20% TFA/CH2Cl2 and stirred 1 hr at rt. The solvent was removed to give the crude (S)-benzyl 2-amino-3-(4-oxocyclohexyl)propyl(methyl)carbamate, which was used directly for the next step without further purification.

reactant | (S)-tert-butyl 1-(N-methyl-N-(benzyloxycarbonyl)amino)-3-(4-oxocyclohexyl)propan-2-ylcarbamate | 0.72 mmol, 300 mg | CN(C(=O)OCC1=CC=CC=C1)C[C@H](CC1CCC(CC1)=O)NC(OC(C)(C)C)=O | C23H34N2O5
solvent | TFA CH2Cl2 | 5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-benzyl 2-amino-3-(4-oxocyclohexyl)propyl(methyl)carbamate | N[C@H](CN(C(OCC1=CC=CC=C1)=O)C)CC1CCC(CC1)=O | C18H26N2O3
